US07786129B2
3-{5-[4-(4-chlorophenyl)-piperazin-1-yl]-pentyl}-3-ethyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process H by applying processing method 1 from 3-(5-chloropentyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(4-chlorophenyl)-piperazine.

reactant | 3-(5-chloropentyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCCC1(C(NC2=CC=CC=C12)=O)CC | C15H20ClNO
reactant | 1-(4-chlorophenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 3-{5-[4-(4-chlorophenyl)-piperazin-1-yl]-pentyl}-3-ethyl-1,3-dihydro-2H-indol-2-one | ClC1=CC=C(C=C1)N1CCN(CC1)CCCCCC1(C(NC2=CC=CC=C12)=O)CC | C25H32ClN3O
